US05879657
N-2-Bromoacetyl-S-triphenylmethyl-2-aminoethanethiol
A solution S-triphenylmethyl-2-aminoethanethiol (48 g, 0.15 mol) and Et3N (20.9 ml, 0.15 mol) in DCM (180 ml) was slowly added to a stirred solution of bromoacetyl bromide (13.9 ml, 0.15 mol) in DCM (100 ml) at a temperature of -20° C. The reaction was allowed to warm to room temperature over a one hour period. The reaction was washed with 500 ml portions of H2O, 0.2N HCl, saturated NaHCO3, and saturated NaCl. The organic solution was dried (MgSO4) and concentrated to an oil. This oil was crystallized from DCM-hexane to give product (54.9 g, 83%) as a colorless solid, MP 137°-139.5° C. (J. A. Wolff, Ph.D. Thesis, Massachusetts Institute of Technology, February 1992, MP 130°-135° C.

reactant | S-triphenylmethyl-2-aminoethanethiol | 0.15 mol, 48 g | C1(=CC=CC=C1)C(SCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NS
reactant | Et3N | 0.15 mol, 20.9 ml | CCN(CC)CC | C6H15N
reactant | bromoacetyl bromide | 0.15 mol, 13.9 ml | BrCC(=O)Br | C2H2Br2O
solvent | DCM | 180 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | N-2-Bromoacetyl-S-triphenylmethyl-2-aminoethanethiol | 54.9 g, 83% | BrCC(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22BrNOS
